US05866592
The obtained β-phenyl-α,α-dimethyl-β-alanine hydrochloride (2.0 g, 10.8 mmol) was dissolved in a 10% aqueous solution of sodium carbonate (46 ml). To the resulting solution, a solution of Fmoc-Cl (3.35 g, 12.96 mmol) in dioxane (20 ml) was added dropwise under cooling with ice and the mixture was stirred at room temperature overnight. The solvents were distilled off and the residue was dissolved in water and washed with ether. The aqueous layer was adjusted to pH 3 with concentrated HCl under cooling with ice and extracted with ethyl acetate. The collected ethyl acetate layer was washed with a saturated solution of NaCl and dried over anhydrous sodium sulfate. The solvent was distilled off and the obtained oil was applied to a silica gel column (2.5×40 cm) and eluted with a mixed solution (chloroform:methanol=50:1). The desired fractions were collected and the solvents were distilled off to yield a crystal of N-Fmoc-β-phenyl-α,α-dimethyl-β-alanine (1.21 g, 26.6%).

reactant | β-phenyl-α,α-dimethyl-β-alanine hydrochloride | 10.8 mmol, 2.0 g | Cl.C1(=CC=CC=C1)C(N)C(C(=O)O)(C)C
reactant | Fmoc-Cl | 12.96 mmol, 3.35 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)Cl | C15H11ClO2
solvent | sodium carbonate | 46 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | N-Fmoc-β-phenyl-α,α-dimethyl-β-alanine | 1.21 g, 26.6% | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NC(C(C(=O)O)(C)C)C1=CC=CC=C1 | C26H25NO4
